US05840890
To a slurry of 5 g of ganciclovir in 10 ml of trimethyl orthoacetate and 10 ml of dimethylformamide was added 0.2 g of pyridinium p-toluene-sulfonate (PPTS). The slurry was stirred at room temperature overnight. Then 5 ml of tap water was added to the thick white slurry and stirring was continued for 1.5 hours. 150 ml of isopropyl acetate was added to the reaction mixture. The mixture was then vacuum distilled at approximately 100-150 mm of Hg (torr) until the volume was about 20 ml. To the concentrate was then added 7.0 g of Z-valine-NCA and 0.2 g of 4-dimethylaminopyridine (DMAP). The mixture was stirred until all the solid had dissolved. The reaction was followed by HPLC. An additional 0.5 g of Z-valine-NCA was needed to complete the process. Then 150 ml of isopropyl acetate was added and the mixture was heated to 50°-55° C. for 30 min. The mixture was allowed to cool slowly and stirred overnight with very slow agitation. The slurry was filtered and washed twice with 10 ml each of isopropyl acetate. The white solid was dried in a vacuum oven at ca. 500 mm of Hg (torr), (nitrogen sweep, 600) to give 7.82 g of Z-valine-ganciclovir monoacetate. HPLC analysis: 94% Z-valine-ganciclovir monoacetate, 0.8% bis-Z-valinate. 1H-NMR (diastereomeric mixture): δ 0.8 (two d,6H), 1.8 (two s,3H), 1.9 (m,1H), 3.95 (m,6H), 5.0 (s,2H), 5.4 (s,2H), 6.5 (s,2H), 7.3 (m,5H), 7.7 (two d,1H), 7.8 (s,1H), 10.6 (s,1H).

reactant | ganciclovir | 5 g | C1=NC2=C(N1COC(CO)CO)N=C(N=C2O)N | C9H13N5O4
reactant | pyridinium p-toluene-sulfonate | 0.2 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | water | O | H2O
reactant | isopropyl acetate | 150 ml | C(C)(=O)OC(C)C | C5H10O2
solvent | trimethyl orthoacetate | 10 ml | C(C)(OC)(OC)OC | C5H12O3
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | Z-valine ganciclovir monoacetate | 7.82 g | CC(C)[C@@H](C(=O)O)NC(=O)OCC1=CC=CC=C1.CC(=O)OCC(CO)OCN1C=NC2=C1NC(=NC2=O)N | InChI=1S/C13H17NO4.C11H15N5O5/c1-9(2)11(12(15)16)14-13(17)18-8-10-6-4-3-5-7-10;1-6(18)20-3-7(2-17)21-5-16-4-13-8-9(16)14-11(12)15-10(8)19/h3-7,9,11H,8H2,1-2H3,(H,14,17)(H,15,16);4,7,17H,2-3,5H2,1H3,(H3,12,14,15,19)/t11-;/m0./s1
